Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
atenolol / cefepime
 
Attending: ___.
 
Chief Complaint:
fever, cough, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o female with h.o Graves disease who presents with reports 
of fever x3 days, diarrhea (3 episodes) x2 days and dry cough x2 
days. Pt reports that she was vacationing in ___ during 
the past few days. She first developed fever 3 days ago and took 
tylenol x1. She then developed cough and diarrhea (watery and 
dark brown), +nausea but no vomiting, no melena or brbpr. She 
reports multiple mosquito insect bites and has been eating alot 
of seafood. Otherwise denies sick contacts. She reports 
decreased PO intake, mild fever without paresthesias, focal 
weakness, visual disturbances or other neurologic red flags. 
Denies chest pain, sob, palpitations, dysuria, rash. Of note, pt 
started methimazole 2 months ago.
.
IN the ED, pt was given vancomycin, cefepime, tylenol, and 
ibuprofen. Pt febrile to 102.9. 
.
Other 10 pt ROS reviewed and otherwise negative.
 
Past Medical History:
Graves disease/hyperthyroidism-started methimazole 2 months ago
 
Social History:
___
Family History:
Mother with CAD
 
Physical Exam:
ADMISSION EXAM

Gen: well appearing, thin woman, NAD
vitals: T. 98.1 BP 82/48 HR 85 RR 16 sat 99% on RA
HEENT: ncat eomi anicteric, no oral lesions noted, MMM
neck: supple, full range of motion, no signs of meningismus
chest: b/l ae no w/c/r
heart: s1s2 rr no m/r/g
abd: +bs, soft, NT, ND, no guarding or rebound
ext: no c/c/e 2+pulses
skin: no apparent rash
neuro: face symmetric, speech fluent, no tremor, moves all 
extremities
psych: calm, cooperative

DISCHARGE EXAM
afebrile, normal VS
clear oropharynx, no adenopathy
clear lungs
normal S1, S2
no rash
benign abdomen
 
Pertinent Results:
___ 03:55PM URINE  HOURS-RANDOM
___ 03:55PM URINE  UCG-NEGATIVE
___ 03:55PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 03:55PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-NEG
___ 03:55PM URINE  RBC-84* WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-5
___ 03:55PM URINE  MUCOUS-OCC
___ 03:52PM   LACTATE-1.2
___ 03:51PM   GLUCOSE-131* UREA N-13 CREAT-0.6 SODIUM-132* 
POTASSIUM-3.8 CHLORIDE-100 TOTAL CO2-23 ANION GAP-13
___ 03:51PM   estGFR-Using this
___ 03:51PM   WBC-0.6* RBC-3.93* HGB-11.1* HCT-33.9* MCV-86 
MCH-28.2 MCHC-32.6 RDW-14.3
___ 03:51PM   NEUTS-2* BANDS-0 LYMPHS-90* MONOS-2 EOS-2 
BASOS-0 ATYPS-4* ___ MYELOS-0
___ 03:51PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 03:51PM   PLT SMR-NORMAL PLT COUNT-156
___ 03:51PM   ___ PTT-30.0 ___
___ 03:51PM   ___ PTT-30.0 ___
.
___ labs-
TSH 0.01, T4 6.7, FT4 8.21
.
CXR ___

Nodular opacity projecting over the lower lung fields, 
symmetrically
bilaterally, are likely due to nipple shadows; this can be 
confirmed with
repeat with nipple markers. Otherwise, no acute cardiopulmonary 
process.

CXR ___

New small bilateral pleural effusions with adjacent opacities 
likely
atelectasis

EKG ___
Sinus tachycardia. Baseline artifact. Early R wave transition in 
the
precordial leads, probably a normal variant. No previous tracing 
available for
comparison.

___ CXR 
1. No acute cardiopulmonary process.
2.  Improving tiny bilateral pleural effusions.

___ CT ABD/PELVIS
1.  No abscess, no definite adenopathy on this abdominal/pelvic 
examination.

___ CT CHEST WITH CONTRAST
1.  Enlarged thyroid gland with two nodules in the lower pole of 
the left lobe
and isthmus.  These can be further evaluated via ultrasound if 
indicated.
2.  No evidence of infection in the chest.

Blood, urine, stool cultures negative

___ 6:46 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   VIRAL CULTURE (Preliminary):    NO VIRUS ISOLATED.

Respiratory viral screen negative
 
Brief Hospital Course:
___ y.o female with h.o Graves disease who presents with fever, 
cough, diarrhea, found to have neutropenia. 

# Neutropenic fever: Due to methimazole , possibly worsened by a 
concomitant viral infection. CXR, CT abd/pelvis and chest were 
wnl and all cultures remained negative. Diarrhea and cough 
self-resolved. She was treated with Vancomycin and Cefepime 
while neutropenic, however switched to vanc/aztreonam when she 
developed a rash after about a week of treatment, with 
subsequent resolution of the rash.  Given that she remained 
afebrile, she was swtiched to oral levofloxacin/clindamycin.  
Methimazole was stopped and patient's counts slowly improved. 
___ was over 1300 on day of discharge, and trending up. She will 
complete one more day of clinda/levofloxacin, with repeat CBC in 
one week to ensure counts have fully recovered (CBC to be 
followed up by Dr. ___ ___ hematology). Patient counseled 
to monitor for any fever, and will contact her PCP if fever 
develops.

# Grave's disease-last TFTs ___ ___ TSH but appropriate 
Ft4 (see ___.
Methimazole and propranolol were initially stopped in the 
setting of her febrile neutropenia and borderline low blood 
pressures. Her endocrinologist was notified of her admission and 
recommended close follow up on discharge for alternative 
treatment, likely radioactive iodine. Propranolol was restarted 
for sinus tachycardia and symptoms of graves prior to discharge, 
at 10 mg TID.

# Anemia- Iron studies consistent with anemia of chronic 
disease; more acute drop likely secondary to bone marrow 
suppression. Repeat CBC in one week as an outpatient.

Full code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methimazole 10 mg PO BID 
2. Propranolol 20 mg PO TID 

 
Discharge Medications:
1. Propranolol 10 mg PO TID 
RX *propranolol 10 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
2. Clindamycin 300 mg PO Q6H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*6 Capsule Refills:*0
3. Levofloxacin 500 mg PO Q24H 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Neutropenic Fever- drug induced, from methimazole 
Grave's disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for evaluation and management 
of neutropenic fever. It was felt this was caused by 
methimazole, which was stopped. Your endocrinologist was 
notified of this change. You initially received IV antibiotics 
for your fevers but were transitioned to oral antibiotics; a 
source for your fevers was not found.

Your blood count recoved well, and you will only need one more 
day of antibiotics

You will no longer take methimazole

You will be taking a lower dose of propranolol.

Please have your blood checked in one week. Dr. ___ has placed 
the order, and you can go to any ___ lab to have 
them drawn. Dr. ___ will follow up the result.

Please see below for your follow up appointments.
 
Followup Instructions:
___